US04696938
2.8 g of 6-(2-methylphenyl)-2-methylpyridine was dissolved in 180 ml 1,4-dioxane, 1.4 g of selenium dioxide (Aldrich Gold Label) was added and the mixture refluxed for 36 hours. The solids were removed by filtration. Ether was added and the organic extracts washed five times with 100 ml water. After drying over magnesium sulfate and evaporation, 6-(2-methylphenyl)-2-pyridinecarboxaldehyde was afforded as a pale yellow oil (1.4 g).

reactant | 6-(2-methylphenyl)-2-methylpyridine | 2.8 g | CC1=C(C=CC=C1)C1=CC=CC(=N1)C | C13H13N
reactant | selenium dioxide | 1.4 g | [Se](=O)=O | O2Se
solvent | 1,4-dioxane | 180 ml | O1CCOCC1 | C4H8O2
product | 6-(2-methylphenyl)-2-pyridinecarboxaldehyde | CC1=C(C=CC=C1)C1=CC=CC(=N1)C=O | C13H11NO
